US07915250B2
Methyl triphenylphosphonium bromide (508 mg, 1.42 mmol) was treated with potassium tert-butoxide (159 mg, 1.42 mmol) in tetrahydrofuran (5 mL) at 0° C. for 10 minutes. 1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-one (270 mg, 0.605 mmol), prepared using procedures similar to those described in Example 6, was dissolved in tetrahydrofuran (2 mL) and was added to the mixture. The mixture was stirred at ambient for 15 h and then the mixture was filtered and the filtrate was partitioned between ethyl acetate and water. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, 20% ethyl acetate in hexanes) gave 2,3-difluoro-N-(2-fluoro-4-iodophenyl)-6-[(3-methylideneazetidin-1-yl)carbonyl]aniline (57 mg, 0.128 mmol, 21% yield): 1H NMR (400 MHz, CDCl3): 8.56 (br s, 1H), 7.39 (dd, 1H), 7.35-7.30 (m, 1H), 7.18-7.12 (m, 1H), 6.86-6.76 (m, 1H), 6.62 (ddd, 1H), 5.14-5.00 (br, 2H), 4.74 (br d, 4H); MS (EI) for C17H12F3IN2O: 445 (MH+).

reactant | potassium tert-butoxide | 1.42 mmol, 159 mg | CC(C)([O-])C.[K+]
reactant | 1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-one | 0.605 mmol, 270 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)=O)NC1=C(C=C(C=C1)I)F | C16H10F3IN2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Methyl triphenylphosphonium bromide | 1.42 mmol, 508 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2,3-difluoro-N-(2-fluoro-4-iodophenyl)-6-[(3-methylideneazetidin-1-yl)carbonyl]aniline | 0.128 mmol, 57 mg, 21% yield | FC1=C(NC2=C(C=C(C=C2)I)F)C(=CC=C1F)C(=O)N1CC(C1)=C | C17H12F3IN2O
